US07141596B2
Methyl 2-(4-{[(2S)-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-({[(2S)-5oxopyrrolidin-2-yl]carbonyl}amino)propanoyl]amino}butoxy)-6-hydroxybenzoate
To a solution of (2S)-5-oxopyrrolidine-2-carboxylic acid (2.0 mg, 0.015 mmol) in DMF (0.5 mL) was added N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (5.8 mg, 0.015 mmol) and N,N-diisopropylethylamine (0.008 mL, 0.045 mmol) and premixed for 5 minutes. To the solution was added methyl 2-[4-({(2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoyl}amino)-butoxy]-6-hydroxybenzoate (8.0 mg, 0.015 mmol) and stirred overnight at room temperature. The product was purified by preparative LCMS to afford the desired product (1.4 mg). LCMS found for C29H35N4O10S (M+H)+: m/z=631.0

reactant | (2S)-5-oxopyrrolidine-2-carboxylic acid | 0.015 mmol, 2.0 mg | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.015 mmol, 5.8 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.045 mmol, 0.008 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 2-[4-({(2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoyl}amino)-butoxy]-6-hydroxybenzoate | 0.015 mmol, 8.0 mg | N[C@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O | C24H29N3O8S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(4-{[(2S)-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-({[(2S)-5oxopyrrolidin-2-yl]carbonyl}amino)propanoyl]amino}butoxy)-6-hydroxybenzoate | 1.4 mg | O=S1(NC(CC1C1=CC=C(C=C1)C[C@@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)NC(=O)[C@H]1NC(CC1)=O)=O)=O | C29H34N4O10S
